US04871865
(b) (E)/(Z)-3-(2-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine
Anhydrous 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide (39.4 g., 0.08 mole) was suspended in 450 mL of dry tetrahydrofuran and 100 mL of a solution of n-butyl lithium in hexane (1.6M) was added dropwise at 0° C. under a nitrogen atmosphere during a 30 minute period. After an additional 10 minutes, 2-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one (16.8 g., 0.06 mole) in 150 mL dry tetrahydrofuran was added slowly to the deep red solution and the reaction mixture was then refluxed for 18 hours. The reaction mixture was poured onto ice-water, and the mixture was extracted with diethyl ether. The ether layer was concentrated under reduced pressure and the residue was suspended in water and then acidified with 6N hydrochloric acid. The acidic aqueous layer was washed with hexanes and then was concentrated to give a gummy residue. The residue was crystallized from ethyl acetate/methanol to provide 5.3 g. of pure Z-isomer as its hydrochloride salt, m.p. 201°-204° C. The mother liquor was chromatographed on a silica gel column (Waters Associates-Prep. 500) with ethyl acetate/methanol (8:2) to give an additional 2.55 g. of pure Z-isomer as the hydrochloride salt and 2.79 g. of E-isomer as its hydrochloride salt, m.p. 230°-233° C. pmr (Z-isomer) (DMSO/d6) δ: 7.25-7.44 (m, 6H, aromatic), 6.81 (degenerate d, J=9.1 Hz, 1H, H4), 5.72 (t, J=7.1 Hz, 1H, CH=), 5.22 (s, 2H, CH2O), 3.18 (m, 2H, NCH2), 2.70 (m, 2H, CH2), 2.66 (s, 6H, NMe2). pmr (E-isomer) (DMSO/d6) δ: 7.23-7.50 (m, 6H, aromatic), 6.70 (d, J=8.6 Hz, 1H, H4), 6.10 (t, J=7.2 Hz, 1H, CH=) 5.15 (br s, 2H, CH2O), 3.07 (m, 2H, NCH2), 2.65 (s, 6H, NMe2), 2.50 (m overlap with DMSO, 2H, CH2).

reactant | 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide | 0.08 mole, 39.4 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one | 0.06 mole, 16.8 g | BrC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C14H9BrO2
reactant | CH2O | C=O | CH2O
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | (Z)-3-(2-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine | BrC1=CC\2=C(OCC3=C(/C2=C/CCN(C)C)C=CC=C3)C=C1 | C19H20BrNO
